Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / mold / house dust / dog hair / EKG leads / latex
 
Attending: ___.
 
Chief Complaint:
asymptomatic lung nodule
 
Major Surgical or Invasive Procedure:
___
Videoassisted thoracoscopic surgery, left upper lobe wedge 
resection.

 
History of Present Illness:
Ms. ___ is a ___ yo female, 18 py smoker, referred for 
management of lung nodule. Ms ___ has a LUL ground glass 
nodule that was found incidentally on imaging epidural spinal 
mass work up in ___. Repeat imaging in
___ revealed an increase in size of the nodule to 2.2 x 
1.7 cm from 1.9 x 1.6cm. As a result, she was referred for 
evaluation.

She denies any other concerns. She denies chest pain, SOB, 
recent
respiratory illness, weight loss, fevers, night sweats or 
chills.

 
Past Medical History:
Nephrolithiasis
Hiatal hernia
Pre-diabetes
Low back pain
Diverticulitis
Hyperlipidemia
T3-6 epidural mass
Alcohol abuse
Anxiety/panic
PTSD
s/p laryngeal tumor
Dilation and curettage
Stent placement

 
Social History:
___
Family History:
Mother- osteoporosis, multiple sclerosis
Father- lung cancer
___
Offspring
Other
 
Physical Exam:
24 HR Data (last updated ___ @ 350)
    Temp: 98.1 (Tm 98.5), BP: 98/63 (91-106/53-66), HR: 66
(58-72), RR: 18 (___), O2 sat: 93% (90-93), O2 delivery: 1l
(1l-2l)
___: BMI: 31.2
Fluid Balance (last updated ___ @ 100)
  Last 8 hours  Total cumulative 60ml
    IN: Total 60ml,  PO amount 60ml
    OUT:  Total 0ml, Urine amount 0ml
  Last 24 hours  Total cumulative 1000ml
    IN: Total 1000ml,  PO amount 1000ml
    OUT:  Total 0ml, Urine amount 0ml, L chest 0ml

Gen: [X] NAD, [X] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [X] CTAB, [] wheezing, [] rales -
currently saturating 95% on room air
Abdomen: [X] soft, [] distended, [] tender, [] rebound/guarding
Wound: [X] incisions clean, dry, intact
Ext: [X] warm, [] tender, [] edema

 
Pertinent Results:
___ CXR :
Comparison to ___.  The patient has undergone a 
left upper lobe wedge resection.  The postoperative chest tube 
on the left is in situ.  There is no pneumothorax but 
predominantly platelike opacities are seen in the parenchyma of 
the left lung.  Small retrocardiac atelectasis.  Platelike 
atelectasis at the right lung bases.  Obviously following 
decreased inspiration the right mediastinal aspect appears 
slightly larger than on the previous examination 

___ 06:37AM BLOOD WBC-11.0* RBC-3.95 Hgb-12.8 Hct-38.6 
MCV-98 MCH-32.4* MCHC-33.2 RDW-13.6 RDWSD-49.5* Plt ___
___ 06:37AM BLOOD Glucose-141* UreaN-23* Creat-1.0 Na-136 
K-4.8 Cl-99 HCO3-24 AnGap-13
___ 06:37AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.8
 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a left VATS left upper lobe 
wedge resection. She tolerated the procedure well and returned 
to the PACU in stable condition. She maintained stable 
hemodynamics and her pain was controlled with IV Dilaudid and 
Tylenol. Her chest tube drained a small amount of bloody fluid 
and had no air leak.

Following transfer to the Surgical floor she progressed well.  
Her oxygen was gradually weaned off and her room air saturations 
were 95%. Her chest tube remained without an air leak and 
minimal drainage and it was removed on ___.  Her post pull 
chest xray revealed no pneumothorax.

She was up and walking independently and had good pain relief 
with Tylenol and Oxycodone. Her port sites were healing well. 
Overnight from ___ to ___, she had a mild desaturation 
episode while sleeping to 86%, which improved with a nebulizer. 
In the morning, she was saturating in the mid-90s and ambulated 
around the floor with a low of 92% and no shortness of breath. 
She was discharged home on ___ and will follow up with Dr. 
___ in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Tretinoin 0.05% Cream 1 Appl TP QHS 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN congestion 
3. Atorvastatin 10 mg PO QPM 
4. esomeprazole magnesium 40 mg oral DAILY 
5. Cyanocobalamin 1000 mcg IM/SC Q MONTH 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs every 6 hours 
Disp #*1 Inhaler Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
4.  Milk of Magnesia 30 mL PO QHS:PRN constipation  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
6.  Atorvastatin 10 mg PO QPM  
7.  Cyanocobalamin 1000 mcg IM/SC Q MONTH  
8.  esomeprazole magnesium 40 mg oral DAILY  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN congestion  

10.  Tretinoin 0.05% Cream 1 Appl TP QHS  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lung nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 
 
Followup Instructions:
___